US05013863
To a stirred solution of 0.57 g of lithium hydroxide monohydrate in 10 ml of water is added a solution of 2.0 g of ethyl-3-aminopropyl(tetrahydrofuran-2-yl)phosphinate in 20 ml of ethanol. A slight by exothermic reaction ensues and the reaction mixture becomes turbid. A further 5 ml of water is added and the then clear solution stirred for 3 days at room temperature. After this time, the reaction mixture is concentrated in vacuo at 55°, The residue is re-dissolved in water and washed with 3×10 ml of dichloromethane. The aqueous layer is again evaporated to dryness and the residue dissolved in 10 ml of water and treated with 0.65 ml of 85% phosphoric acid in 2 ml of water. After stirring overnight, the solid is removed by filtration. Evaporation of the filtrate and crystallisation of the residue from methanol/ether affords 3-aminopropyl(tetrahydrofuran-2-yl)phosphinic acid, m.p. 222-223° (dec.), as a white solid.

reactant | lithium hydroxide monohydrate | 0.57 g | O.[OH-].[Li+]
reactant | ethyl-3-aminopropyl(tetrahydrofuran-2-yl)phosphinate | 2.0 g | C(C)OP(=O)(C1OCCC1)CCCN | C9H20NO3P
solvent | water | 10 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 3-aminopropyl(tetrahydrofuran-2-yl)phosphinic acid | NCCCP(O)(=O)C1OCCC1 | C7H16NO3P
